US06982348B2
9) tert-butyl (1RS,2RS)-2-hydroxy-2-(5-phenoxypyridin-2-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethylcarbamate
To a solution of tert-butyl (4RS,5RS)-2-oxo-5-(5-phenoxypyridin-2-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate (1.00 g, 1.78 mmol) in methanol (12 ml) was added a solution (4.3 ml, 2.13 mmol) of 0.5N sodium hydroxide in methanol, and the mixture was stirred at room temperature for 1 hr. To the reaction solution was added water (50 ml), and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give-the objective substance (0.81 g, 85%).

reactant | tert-butyl (4RS,5RS)-2-oxo-5-(5-phenoxypyridin-2-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate | 1.78 mmol, 1.00 g | O=C1OC(C(N1C(=O)OC(C)(C)C)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=NC=C(C=C1)OC1=CC=CC=C1 | C28H26F4N2O6
reactant | sodium hydroxide | 2.13 mmol, 0.5N, 4.3 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | methanol | 12 ml | CO | CH4O
product | tert-butyl (1RS,2RS)-2-hydroxy-2-(5-phenoxypyridin-2-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethylcarbamate | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(OC(C)(C)C)=O)C1=NC=C(C=C1)OC1=CC=CC=C1 | C27H28F4N2O5
